US04871730
A solution of dipheyldiazomethane (1.7 mol) in ethyl acetate (2.13 l) was added to a mixture of 7-amino-3-hydroxycepham-4-carboxylic acid (186 g) in dimethyl sulfoxide (1.5 l). The mixture was stirred at room temperature for 32 hours and filtered. To the filtrate was added water and the mixture was extracted with ethyl acetate. The extract was washed three times with water, dried over magnesium sulfate and filtered, and the filtrate was evaporated in vacuo. The residue was tritulated with diisopropyl ether to give benzhydryl 7-amino-3-hydroxycepham-4-carboxylate (223 g) as powder.

reactant | dipheyldiazomethane | 1.7 mol | C1(=CC=CC=C1)C(=[N+]=[N-])C1=CC=CC=C1 | C13H10N2
reactant | 7-amino-3-hydroxycepham-4-carboxylic acid | 186 g | NC1[C@@H]2N(C(C(CS2)O)C(=O)O)C1=O | C7H10N2O4S
solvent | ethyl acetate | 2.13 l | C(C)(=O)OCC | C4H8O2
solvent | dimethyl sulfoxide | 1.5 l | CS(=O)C | C2H6OS
product | benzhydryl 7-amino-3-hydroxycepham-4-carboxylate | 223 g | NC1[C@@H]2N(C(C(CS2)O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C20H20N2O4S
